US09227970B2
A mixture of ethyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylate (480 mg, 1.23 mmol) and lithium hydroxide hydrate (155 mg, 3.69 mmol) in methanol (10 ml) and water (3.0 ml) was stirred for 18 hours at 25° C. The solvent was evaporated, the residue was diluted with water and the solution was acidified with hydrochloric acid to pH=0, the precipitated solid was collected, washed with water and dried in vacuo affording 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (435 mg, 98%) as light brown solid. Mp.: 259° C. MS: m/z=361.2 (M−H+).

reactant | ethyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylate | 1.23 mmol, 480 mg | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)OCC | C20H18N6O3
reactant | lithium hydroxide hydrate | 3.69 mmol, 155 mg | O.[OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 3.0 ml | O | H2O
product | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 435 mg, 98% | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
